US07838498B2
Preparation of 1-bromo-4-chloro-5-(4-ethylbenzyl)-2-(2-(trifluoromethoxy)-ethoxy)benzene (Intermediate BP)
To a solution of 2-bromo-5-chloro-4-(4-ethylbenzyl)phenol (AT) (0.12 g, 0.38 mmol) in anhydrous CH3CN (4 mL), was added potassium tert-butoxide [1.0 M solution in tert-butanol] (380 μL, 0.38 mmol) followed by 2-(trifluoromethoxy)ethyl trifluoromethanesulfonate (0.10 g, 0.38 mmol) [prepared as described in the Journal of Organic Chemistry, 2001, 66, 1061-1063]. The reaction mixture was stirred for 15 h at room temperature, after which saturated NH4Cl was added and the mixture was partitioned between EtOAc and brine. The organic layer was dried with anhydrous Na2SO4, filtered and concentrated. The residue was purified by preparative TLC to give intermediate BP (0.06 g, 36%). 1H-NMR (CDCl3, 300 MHz) δ 7.31 (s, 1H), 7.10 (m, 4H), 6.89 (s, 1H), 4.31 (m, 2H), 4.20 (m, 2H), 3.96 (s, 2H), 2.61 (q, J=7.5 Hz, 2H), 1.22 (t, J=7.5 Hz, 3H).

reactant | 2-bromo-5-chloro-4-(4-ethylbenzyl)phenol | 0.38 mmol, 0.12 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)O | C15H14BrClO
reactant | potassium tert-butoxide | 0.38 mmol, 1.0 M, 380 μL | CC(C)([O-])C.[K+]
reactant | 2-(trifluoromethoxy)ethyl trifluoromethanesulfonate | 0.38 mmol, 0.10 g | FC(S(=O)(=O)OCCOC(F)(F)F)(F)F | C4H4F6O4S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH3CN | 4 mL | CC#N | C2H3N
product | 1-bromo-4-chloro-5-(4-ethylbenzyl)-2-(2-(trifluoromethoxy)-ethoxy)benzene | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)OCCOC(F)(F)F | C18H17BrClF3O2
